US07524823B2
B] Preparation of 2-[(3H-imidazo[4,5-b]pyridin-3-yl)methoxy]-ethanol
0.79 g (3.36 mmol) acetic acid 2-(3H-imidazo[4,5-b]pyridin-3-ylmethoxy)-ethyl ester were dissolved in 10 ml methanol and 10 mg (1.85 mmol) sodium methoxide were added. The mixture was stirred at room temperature for 3 hours. The orange mixture was concentrated in vacuo to afford 0.64 g (99%) of crude product. MS (EI): 193.2, 163.2, 148.2, 133.2.

reactant | acetic acid 2-(3H-imidazo[4,5-b]pyridin-3-ylmethoxy)-ethyl ester | 3.36 mmol, 0.79 g | N1=CN(C2=NC=CC=C21)COCCOC(C)=O | C11H13N3O3
reactant | sodium methoxide | 1.85 mmol, 10 mg | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-[(3H-imidazo[4,5-b]pyridin-3-yl)methoxy]-ethanol | 0.64 g, 99% | N1=CN(C2=NC=CC=C21)COCCO | C9H11N3O2
